US08871361B2
3-(isoquinolin-1-yl)-N-phenylaniline (1.65 g, 5.57 mmol), 2-(3-bromophenyl)-1-(2,6-diisopropylphenyl)-1H-imidazole (2.256 g, 5.89 mmol), sodium tert-butoxide (0.802 g, 8.35 mmol), Pd2dba3 (0.102 g, 0.111 mmol) and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (S-Phos) (0.184 g, 0.449 mmol) were charged into the reaction vessel with 150 mL of toluene. This mixture was evacuated and back-filled with nitrogen. The reaction mixture was then heated to reflux for 18 h. The reaction mixture was cooled to room temperature then was diluted with 75 mL of water. This mixture was then filtered through a pad of Celite®. The toluene layer was separated and dried over magnesium sulfate. The organics were filtered and stripped under vacuum. The crude residue was passed through a silica gel column using 2-40% ethyl acetate/DCM yielding 3-(1-(2,6-diisopropylphenyl)-1H-imidazol-2-yl)-N-(3-(isoquinolin-1-yl)phenyl)-N-phenylaniline (2.60 g, 4.34 mmol, 78% yield).

reactant | 3-(isoquinolin-1-yl)-N-phenylaniline | 5.57 mmol, 1.65 g | C1(=NC=CC2=CC=CC=C12)C=1C=C(NC2=CC=CC=C2)C=CC1 | C21H16N2
reactant | 2-(3-bromophenyl)-1-(2,6-diisopropylphenyl)-1H-imidazole | 5.89 mmol, 2.256 g | BrC=1C=C(C=CC1)C=1N(C=CN1)C1=C(C=CC=C1C(C)C)C(C)C | C21H23BrN2
reactant | sodium tert-butoxide | 8.35 mmol, 0.802 g | CC(C)([O-])C.[Na+]
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.449 mmol, 0.184 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | Pd2dba3 | 0.111 mmol, 0.102 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(1-(2,6-diisopropylphenyl)-1H-imidazol-2-yl)-N-(3-(isoquinolin-1-yl)phenyl)-N-phenylaniline | 4.34 mmol, 2.60 g, 78% yield | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(=NC=C1)C=1C=C(N(C2=CC=CC=C2)C2=CC(=CC=C2)C2=NC=CC3=CC=CC=C23)C=CC1 | C42H38N4
